US06380218B1
3-Chloro-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester
To a solution of 3-Chloro-4-hydroxy-benzoic acid methyl ester (15.0 grams, 80.0 mmole), triethylamine (20.2 grams, 200 mmole) and DMAP (1.0 grams, 8.0 mmole) in methylene chloride (200 ml) at 0° C. was added triflic anhydride (17 ml, 100.0 mmole) dropwise. The mixture was allowed to warm to room temperature and stirred for four hours. It was diluted with methylene chloride (600 ml), washed with water, dried over MgSO4, filtered, and concentrated to give an oil which was purified via flash chromatography on silica using 20% ethyl acetate/hexane as eluent to give an oil. (20.9 g). MW 322.05; MS (m/e) 322 (M+).

reactant | 3-Chloro-4-hydroxy-benzoic acid methyl ester | 80.0 mmole, 15.0 grams | COC(C1=CC(=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | triethylamine | 200 mmole, 20.2 grams | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 100.0 mmole, 17 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | DMAP | 8.0 mmole, 1.0 grams | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl)=O | C9H6ClF3O5S
